US05461060
Then, 3.3 ml of lithium diisopropylamide solution in tetrahydrofuran (2.1M) was added to 9 ml of tetrahydrofuran under a nitrogen atmosphere at -70° C., to which a solution of 0.56 g (3.0 mmol) of 1-ethoxymethyl-2-thiouracil in 3 ml of tetrahydrofuran was added dropwise over 15 minutes. After stirring for 1 hour at -70° C., the reaction mixture was added with a solution of 0.85 g (3.9 mmol) of diphenyl disulfide in 1 ml of tetrahydrofuran dropwise over 10 minutes and allowed to react for 20 minutes. The reaction mixture was added with 1 ml of acetic acid, brought to room temperature and then added with 30 ml of ethyl acetate. The mixture was washed with water (3 ml ×5) and saturated aqueous solution of sodium hydrogencarbonate (twice), dried on magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/hexane=3:17), crystallized from ethyl acetate to obtain 0.64 g of 1-ethoxymethyl-6-phenylthio-2-thiouracil (Yield: 73%).

reactant | lithium diisopropylamide | 3.3 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-ethoxymethyl-2-thiouracil | 3.0 mmol, 0.56 g | C(C)OCN1C(=S)NC(=O)C=C1 | C7H10N2O2S
reactant | diphenyl disulfide | 3.9 mmol, 0.85 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 2.1M | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-ethoxymethyl-6-phenylthio-2-thiouracil | 0.64 g, Yield: 73% | C(C)OCN1C(=S)NC(=S)C=C1C1=CC=CC=C1 | C13H14N2OS2
